US05041448
A mixture of 3 parts of poly(oxymethylene), 5 parts of 7-[(4-fluorophenyl)methyl]-8-(4-piperidinylamino)-7H-purin-6-ol dihydrobromide, 1 part of a solution of thiophene in methanol 4%, 5 parts of potassium acetate and 120 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was taken up in water and the whole was treated with sodium carbonate. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2 parts (56%) of 7-[(4-fluorophenyl)methyl]-8-[(1-methyl-4-piperidinyl)amino] -7H-purin-6-ol; mp. 255.6° C. (compound 139).

reactant | poly(oxymethylene) | O(C[*:2])[*:1]
reactant | 7-[(4-fluorophenyl)methyl]-8-(4-piperidinylamino)-7H-purin-6-ol dihydrobromide | Br.Br.FC1=CC=C(C=C1)CN1C(=NC2=NC=NC(=C12)O)NC1CCNCC1
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 7-[(4-fluorophenyl)methyl]-8-[(1-methyl-4-piperidinyl)amino] -7H-purin-6-ol | 56% | FC1=CC=C(C=C1)CN1C(=NC2=NC=NC(=C12)O)NC1CCN(CC1)C | C18H21FN6O
